US07772244B2
(R)-3-(7-Methyl-1H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(7-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate
(R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(7-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate (93 mg, 0.12 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 6 mL) and stirred at room temperature for 2 h. The reaction was concentrated and purified by column chromatography (5:95:1 to 10:90:1 methanol/dichloromethane/triethylamine). The residue was dissolved in 10% methanol/dichloromethane and passed through a plug of basic alumina to give 41 mg (53%) as a white powder. 1H-NMR (CD3OD, 500 MHz) δ −0.38-0.15 (m, 0.7H), 0.60-0.95 (m, 1H), 1.18-2.18 (m, 17H), 2.29 (m, 0.7H), 2.35-2.50 (m, 3H), 2.58-3.01 (m, 3.4H), 3.01-3.25 (m, 2.4H), 3.65-4.60 (m, 7H), 5.47 (m, 0.4H), 5.55 (dd, J=9.5, 6.1, 0.7H), 6.51 (m, 0.8H), 6.62 (m, 0.8H), 6.90-7.20 (m, 2.2H), 7.45 (bs, 1.1H), 7.98 (bs, 1H). Mass spec.: 648.64 (MH)+.

reactant | (R)-3-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(7-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | 0.12 mmol, 93 mg | FC1=CC=C2CN(C(NC2=C1)=O)C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C41H58FN7O5Si
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-3-(7-Methyl-1H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(7-fluoro-2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | FC1=CC=C2CN(C(NC2=C1)=O)C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC=1C=C2C=NNC2=C(C1)C | C35H44FN7O4
